US07067667B2
7-Acetoxyethyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 400 mg (1.5 mmol) of 7-acetoxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one and 193 mg (1.5 mmol) of N-chlorosuccinimide in 40 ml of DMF is heated for 6 days to 100° C. The batch is poured onto ice water and extracted with ethyl acetate. The organic phase is washed with 10% sulfuric acid and water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 380 mg of product.

reactant | 7-acetoxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.5 mmol, 400 mg | C(C)(=O)OCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C16H19NO3
reactant | N-chlorosuccinimide | 1.5 mmol, 193 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 7-Acetoxyethyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 380 mg | C(C)(=O)OCCC=1C(=CC=2C3C(C(NC2C1)=O)CCC3)Cl | C16H18ClNO3
